US07141596B2
Step 1. (2S)-2-[(Benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid
A solution of (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid trifluoroacetate (45 mg, 109 μmol), sodium hydroxide (26.2 mg, 655 μmol), water (100 μL) and tetrahydrofuran (2 mL) was cooled to 0° C. and then benzyl chloroformate (18.7 μL, 131 μmol) was added. The reaction was warmed to 25° C. and stirred for 20 h. The solution was acidified with 1 N aq. HCl solution (1.00 mL) and the crude residue was purified by preparative LCMS to yield the desired product (13 mg, 28%). MF=C20H20N2O7S; LCMS found for C20H21N2O7S (M+H)+: m/z=433.

reactant | (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid trifluoroacetate | 109 μmol, 45 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)O)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O
reactant | sodium hydroxide | 655 μmol, 26.2 mg | [OH-].[Na+]
reactant | benzyl chloroformate | 131 μmol, 18.7 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 1 N, 1.00 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 100 μL | O | H2O
product | (2S)-2-[(Benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 13 mg, 28% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O | C20H20N2O7S
